US04058554
B. PREPARATION OF CALCIUM BIS(METHYL MALEATE)
One mole of maleic anhydride is dissolved with stirring in 1000 ml methanol at 50°-60° C. The mixture is cooled to 25° C and with the aid of a pH meter, the pH is adjusted to 8.6 with calcium hydroxide while maintaining the temperature below 25° C with an ice bath. 149 g of calcium bis(methyl maleate) is recovered by crystallizing out of methanol followed by drying in a vacuum oven.

reactant | maleic anhydride | One mole | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | calcium hydroxide | [OH-].[Ca+2].[OH-]
reactant | methanol | 1000 ml | CO | CH4O
product | CALCIUM BIS(METHYL MALEATE) | C/C(/C(=O)[O-])=C/C(=O)[O-].C/C(/C(=O)[O-])=C/C(=O)[O-].[Ca+2].[Ca+2] | InChI=1S/2C5H6O4.2Ca/c2*1-3(5(8)9)2-4(6)7;;/h2*2H,1H3,(H,6,7)(H,8,9);;/q;;2*+2/p-4/b2*3-2-;;
